US07641914B2
3) Preparation of tert-butyl [(3-hydroxypropyl)-trifluoroacetylamino]acetate
17.65 g of tert-butyl (3-hydroxypropyl-amino)acetate (93.3 mmol) were solubilized in 100 ml of dichloromethane and the whole was cooled to 0° C. on an ice bath. 26 ml of triethylamine (186.6 mmol) were added, followed by a dropwise addition of 21.5 g of trifluoroacetic anhydride (102.6 mmol) using a dropping funnel. At the end of the addition, the reaction mixture was left at room temperature overnight, with magnetic stirring.

reactant | tert-butyl (3-hydroxypropyl-amino)acetate | 93.3 mmol, 17.65 g | OCCCNCC(=O)OC(C)(C)C | C9H19NO3
reactant | triethylamine | 186.6 mmol, 26 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 102.6 mmol, 21.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-butyl [(3-hydroxypropyl)-trifluoroacetylamino]acetate | OCCCN(C(C(F)(F)F)=O)CC(=O)OC(C)(C)C | C11H18F3NO4
